* Z:\mnt\design.r\spice\examples\3462A.asc
R1 OUT N003 267K
R2 N003 N004 68.1K
L1 IN N001 22µ Rser=10m
V1 IN 0 5
C1 OUT 0 2.2µ
L2 OUT N002 22µ Rser=10m
C2 N002 N001 1µ Rser=50m
C3 OUT N003 22p
Rload OUT 0 50
XU1 N001 0 N003 N004 N002 IN LT3462A
.tran 500u startup
K1 L1 L2 1
.lib LT3462A.sub
.backanno
.end
